US08703795B2
c) 4-Bromo-3-{[(2,4-dimethoxy-benzyl)-methoxycarbonylmethyl-amino]-methyl}-thiophene-2-carboxylic acid methyl ester
4-Bromo-3-bromomethyl-thiophene-2-carboxylic acid methyl ester (2.28 g, 7.31 mmol), example 31-b, was dissolved in 18 mL of dry N,N-dimethylformamide. N-(2,4-dimethoxy-benzyl)glycine ethyl ester (1.75 g, 7.31 mmol) and potassium carbonate (1.11 g, 8.04 mmol) were added and the reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic fraction was dried over anhydrous sodium sulfate, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-60% ethyl acetate in hexanes to produce 3.18 g of a tan oil. MS: (+) m/z 494.1, 496.1 (M+Na+, 79Br/81Br).

reactant | 4-Bromo-3-bromomethyl-thiophene-2-carboxylic acid methyl ester | 7.31 mmol, 2.28 g | COC(=O)C=1SC=C(C1CBr)Br | C7H6Br2O2S
reactant | N-(2,4-dimethoxy-benzyl)glycine ethyl ester | 7.31 mmol, 1.75 g | C(C)OC(CNCC1=C(C=C(C=C1)OC)OC)=O | C13H19NO4
reactant | potassium carbonate | 8.04 mmol, 1.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-3-{[(2,4-dimethoxy-benzyl)-methoxycarbonylmethyl-amino]-methyl}-thiophene-2-carboxylic acid methyl ester | 3.18 g | COC(=O)C=1SC=C(C1CN(CC(=O)OC)CC1=C(C=C(C=C1)OC)OC)Br | C19H22BrNO6S
